### PR TITLE
feat(Analysis/Calculus/VectorField): Implement product rule for liebrackets

### PR DESCRIPTION
**Pull request by jkanschik**
This adds lemmas for the product rule (or Leibniz rule) for Lie brackets on vector fields.
These new lemmas are called `lieBracket_smul_left` and similar.
To accomodate this, rename the existing lemmas `{m}lieBracket{Within}_smul_{left,right}` to `{m}lieBracket{Within}_const_smul_{left,right}`.

An additional PR for the same functionality on manifolds is in preparation and would depend on this PR. This will become useful when introducing Lie derivatives or covariant derivatives in differential geometry.

### CODE REVIEW

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 1]
```diff
@@ -107,6 +107,62 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
...
+/--
+Product rule for Lie Brackets: given two vector fields `V W : E → E` and a function `f : E → 𝕜`,
+we have `[V, f • W] = (df V) • W + f • [V, W]`
+-/
+lemma lieBracketWithin_fmul_right {f : E → 𝕜}
+    (hf : DifferentiableWithinAt 𝕜 f s x)
+    (hW : DifferentiableWithinAt 𝕜 W s x)
+    (hs: UniqueDiffWithinAt 𝕜 s x) :
+    lieBracketWithin 𝕜 V (fun y => f y • W y) s x =
+      (fderivWithin 𝕜 f s x) (V x) • (W x)  + (f x) • lieBracketWithin 𝕜 V W s x := by
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/VectorField.lean:119]: You have a double space here:
```suggestion
      (fderivWithin 𝕜 f s x) (V x) • (W x) + (f x) • lieBracketWithin 𝕜 V W s x := by

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 2]
```diff
@@ -107,6 +107,62 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
...
 
+/--
+Product rule for Lie Brackets: given two vector fields `V W : E → E` and a function `f : E → 𝕜`,
+we have `[V, f • W] = (df V) • W + f • [V, W]`
+-/
+lemma lieBracketWithin_fmul_right {f : E → 𝕜}
+    (hf : DifferentiableWithinAt 𝕜 f s x)
+    (hW : DifferentiableWithinAt 𝕜 W s x)
+    (hs: UniqueDiffWithinAt 𝕜 s x) :
+    lieBracketWithin 𝕜 V (fun y => f y • W y) s x =
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/VectorField.lean:118]: Mathlib style slightly prefers ↦ (typed with \maps or \mapsto) over => for anonymous functions.
```suggestion
    lieBracketWithin 𝕜 V (fun y ↦ f y • W y) s x =

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 3]
```diff
@@ -107,6 +107,62 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
   simp only [← differentiableWithinAt_univ, ← lieBracketWithin_univ] at hW ⊢
   exact lieBracketWithin_smul_right hW uniqueDiffWithinAt_univ
 
+/--
+Product rule for Lie Brackets: given two vector fields `V W : E → E` and a function `f : E → 𝕜`,
+we have `[V, f • W] = (df V) • W + f • [V, W]`
+-/
+lemma lieBracketWithin_fmul_right {f : E → 𝕜}
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/VectorField.lean:114]: You use `fmul` for "multiplication with a function, right? I think mathlib style is different; I'd probably use "mul". (Or should we establish a convention for "fmul"? I'm interested in your opinion, Sébastien.

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 4]
```diff
@@ -107,6 +107,62 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
...
+    (hf : DifferentiableWithinAt 𝕜 f s x)
+    (hW : DifferentiableWithinAt 𝕜 W s x)
+    (hs: UniqueDiffWithinAt 𝕜 s x) :
+    lieBracketWithin 𝕜 V (fun y => f y • W y) s x =
+      (fderivWithin 𝕜 f s x) (V x) • (W x)  + (f x) • lieBracketWithin 𝕜 V W s x := by
+  rw [lieBracketWithin, lieBracketWithin, fderivWithin_smul hs hf hW, ContinuousLinearMap.add_apply]
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/VectorField.lean:120]: Can `simp` do those, if you feed it the appropriate lemmas? Otherwise, I'd at least combine the `rw`s into one line.

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 5]
```diff
@@ -107,6 +107,62 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
...
+  rw [map_smul, ContinuousLinearMap.smulRight_apply, add_comm, smul_sub]
+  rw [ContinuousLinearMap.smul_apply, add_sub_assoc]
+
+/--
+Product rule for Lie Brackets: given two vector fields `V W : E → E` and a function `f : E → 𝕜`,
+we have `[V, f • W] = (df V) • W + f • [V, W]`
+-/
+lemma lieBracket_fmul_right {f : E → 𝕜}
+    (hf : DifferentiableAt 𝕜 f x)
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/VectorField.lean:129]: I'd write these hypotheses on one line (also above)

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 6]
```diff
@@ -107,6 +107,62 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
...
+    (hW : DifferentiableAt 𝕜 W x) :
+    lieBracket 𝕜 V (fun y => f y • W y) x =
+      (fderiv 𝕜 f x) (V x) • (W x)  + (f x) • lieBracket 𝕜 V W x := by
+  simp only [← differentiableWithinAt_univ, ← lieBracketWithin_univ] at hW ⊢
+  simp only [← differentiableWithinAt_univ, ← lieBracketWithin_univ] at hf ⊢
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/VectorField.lean:134]: Can you combine these two?
```suggestion
  simp only [← differentiableWithinAt_univ, ← lieBracketWithin_univ] at hW hf ⊢

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 7]
```diff
@@ -107,6 +107,62 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
...
+  rw [fderiv]
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/VectorField.lean:135]: Can you remove this line if you add `fderivWithin_univ` as a simp lemma?

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 8]
```diff
@@ -107,6 +107,62 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
...
+Product rule for Lie Brackets: given two vector fields `V W : E → E` and a function `f : E → 𝕜`,
+we have `[f • V, W] = - (df W) • V + f • [V, W]`
+-/
+lemma lieBracketWithin_fmul_left {f : E → 𝕜}
+    (hf : DifferentiableWithinAt 𝕜 f s x)
+    (hV : DifferentiableWithinAt 𝕜 V s x)
+    (hs: UniqueDiffWithinAt 𝕜 s x) :
+    lieBracketWithin 𝕜 (fun y => f y • V y) W s x =
+      - (fderivWithin 𝕜 f s x) (W x) • (V x)  + (f x) • lieBracketWithin 𝕜 V W s x := by
+  rw [lieBracketWithin, lieBracketWithin, fderivWithin_smul hs hf hV, ContinuousLinearMap.add_apply]
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/VectorField.lean:148]: A shorter proof: use anti-symmetry of the Lie bracket and use the `right` statement above.

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 9]
```diff
@@ -107,6 +107,62 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
...
+/--
+Product rule for Lie Brackets: given two vector fields `V W : E → E` and a function `f : E → 𝕜`,
+we have `[f • V, W] = - (df W) • V + f • [V, W]`
+-/
+lemma lieBracket_fmul_left {f : E → 𝕜}
+    (hf : DifferentiableAt 𝕜 f x)
+    (hV : DifferentiableAt 𝕜 V x) :
+    lieBracket 𝕜 (fun y => f y • V y) W x =
+      - (fderiv 𝕜 f x) (W x) • (V x)  + (f x) • lieBracket 𝕜 V W x := by
+  simp only [← differentiableWithinAt_univ, ← lieBracketWithin_univ] at hV ⊢
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/VectorField.lean:161]: And here you can choose which way to shorten the proof, either reducing to the `lieBracketWithin_fmul_left` version or to `lieBracket_fmul_right`.

**Review by grunweg — COMMENTED** [review]
Thanks for your PR, it's great to see more differential geometry contributions! I've taken a first look. I have a number of minor comments (which is completely normal, by the way): basically, your code can be written a bit more compactly.

File: Mathlib/Analysis/Calculus/VectorField.lean (hunk 3 above)
Comment (jkanschik) [reply Mathlib/Analysis/Calculus/VectorField.lean:114]: > You use fmul for "multiplication with a function, right?

That was the idea, like "smul", but for functions.

File: Mathlib/Analysis/Calculus/VectorField.lean (hunk 4 above)
Comment (jkanschik) [reply Mathlib/Analysis/Calculus/VectorField.lean:120]: `simp only [...]` did the job as well, but not a geneic `simp`.
I wasn't sure whether it's best to use "simp only" or explicite `rw`. Are there pros/cons to consider?

File: Mathlib/Analysis/Calculus/VectorField.lean (hunk 7 above)
Comment (jkanschik) [reply Mathlib/Analysis/Calculus/VectorField.lean:135]: Do you mean `simp only [fderivWithin_univ]` instead of `rw [fderiv]`? 
This doesn't work ("tactic does nothing").
Or I don't get it ;-)

File: Mathlib/Analysis/Calculus/VectorField.lean (hunk 9 above)
Comment (jkanschik) [reply Mathlib/Analysis/Calculus/VectorField.lean:161]: My current (local) version is 

```
  simp only [← differentiableWithinAt_univ, ← lieBracketWithin_univ] at hV hf ⊢
  rw [fderiv]
  exact lieBracketWithin_fmul_left hf hV uniqueDiffWithinAt_univ
```
It already is reduced to lieBracketWithin_fmul_left. Can it become even shorter?

File: Mathlib/Analysis/Calculus/VectorField.lean (hunk 8 above)
Comment (jkanschik) [reply Mathlib/Analysis/Calculus/VectorField.lean:148]: This could become 
```
  rw [lieBracketWithin_swap, Pi.neg_apply, lieBracketWithin_fmul_right hf hV hs, lieBracketWithin_swap]
  simp only [Pi.neg_apply, smul_neg, neg_add_rev, neg_neg, neg_smul]
```
The last line could also be `rw [neg_add, Pi.neg_apply, smul_neg, neg_neg, neg_smul]`

Simp or rw?

Comment (grunweg) [reply Mathlib/Analysis/Calculus/VectorField.lean:148]: I'd say the last line should become `simp`. I got something like
```
  rw [lieBracketWithin_swap, Pi.neg_apply, lieBracketWithin_fmul_right hf hV hs,
    lieBracketWithin_swap, add_comm]
  simp
```
so virtually the same.

**Comment by grunweg** [comment]
Don't forget to push your changes once you're happy - and remove the awaiting-author label so we know to take a look again. Thanks!

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 10]
```diff
@@ -107,6 +119,50 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
   simp only [← differentiableWithinAt_univ, ← lieBracketWithin_univ] at hW ⊢
   exact lieBracketWithin_smul_right hW uniqueDiffWithinAt_univ
 
+/--
+Product rule for Lie Brackets: given two vector fields `V W : E → E` and a function `f : E → 𝕜`,
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/VectorField.lean:123]: Should this doc-string mention the differentiability (e.g. "two differentiable vector fields ... and a differentiable function")? Also below.

**Review by grunweg — COMMENTED** [review]
Thanks, looks very nice. Just two question before this can be merged
- should the doc-string be tweaked (see below)?
- how to name the lemmas.

In general, mathlib lemmas are named according to the symbol they use (in this case, `smul` --- except that `lieBracket_smul` already exists (for scalar multiplication with a constant function). 
Looking at germs of functions (as they have a similar question), I see
- an smul instance, and a lemma Filter.Germ.const_smul for multiplication with a constant
- another smul instance (on the germs themselves), with lemmas `coe_smul'` and `const_smul'`. That comes closest to this one and would suggest `smul'` as name. Hm.

@fpvandoorn since we discussed this over lunch
@sgouezel If you have an opinion on the second point, I'm all ears: how would you name a lemma about "scalar multiplication of a function and a vector field", given that the obvious name `smul` is already taken by scalar multiplication with a constant.

File: Mathlib/Analysis/Calculus/VectorField.lean [hunk 11]
```diff
@@ -107,6 +119,50 @@ lemma lieBracket_smul_right {c : 𝕜} (hW : DifferentiableAt 𝕜 W x) :
...
+we have `[V, f • W] = (df V) • W + f • [V, W]`
+-/
+lemma lieBracketWithin_fmul_right {f : E → 𝕜} (hf : DifferentiableWithinAt 𝕜 f s x)
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Analysis/Calculus/VectorField.lean:126]: Floris and I were discussing this over lunch and not sure which of the various options we prefer. This one sounds as good as any, so we're both on board with this also.

[the remark this answers is not in the document]
Comment (jkanschik) [reply Mathlib/Analysis/Calculus/VectorField.lean:126]: I will change the naming as proposed. How do you deal with these kind of renamings and dependencies to other branches / projects? If someone relies on `lieBracketWithin_smul_right` and I refactor it, probably some proofs outside of mathlib will fail...

File: Mathlib/Analysis/Calculus/VectorField.lean (hunk 10 above)
Comment (jkanschik) [reply Mathlib/Analysis/Calculus/VectorField.lean:123]: Don't mind, just wondering that the docstring and hypothesis would diverge. For lie brackets, mathlib doens't explicitely state that both vector fields need to be differetiable, only when it's needed in the proof, like for `lieBracketWithin_const_smul_left`.

Comment (grunweg) [reply Mathlib/Analysis/Calculus/VectorField.lean:123]: Indeed! That's why mathlib has a deprecation policy, which is documented [here](https://leanprover-community.github.io/contribute/style.html#deprecation).
In short, please add deprecated aliasses for all the lemmas you [renamed](https://github.com/leanprover-community/mathlib4/pull/24932/commits/612c554192f9bda9d1cca50017741af1f9d089af). There is a script for that; running `./script/add_deprecations.sh 612c554192f9bda9d1cca50017741af1f9d089af` (from the root directory of your mathlib checkout) should do so automatically. You can also create them by hand; either way works.

File: Mathlib/Analysis/Calculus/VectorField.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Analysis/Calculus/VectorField.lean]: Indeed! That's why mathlib has a deprecation policy, which is documented [here](https://leanprover-community.github.io/contribute/style.html#deprecation).
In short, please add deprecated aliasses for all the lemmas you [renamed](https://github.com/leanprover-community/mathlib4/pull/24932/commits/612c554192f9bda9d1cca50017741af1f9d089af). There is a script for that; running `./script/add_deprecations.sh 612c554192f9bda9d1cca50017741af1f9d089af` (from the root directory of your mathlib checkout) should do so automatically. You can also create them by hand; either way works.

**Comment by grunweg** [comment]
Can you add deprecation aliasses, please? Thanks!

File: Mathlib/Analysis/Calculus/VectorField.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (jkanschik) [reply Mathlib/Analysis/Calculus/VectorField.lean]: Should have known it, after all I have already seen a few deprecation notes in the source; I just forgot it.
There is a problem, though. The following deprecation note works and follows the guidelines (and makes sense):
```
@[deprecated (since := "2025-05-17")]
alias lieBracketWithin_smul_right := lieBracketWithin_const_smul_right
```
But the new lemma is also called `lieBracketWithin_smul_right` like the alias. So the normal deprecation note won't work.

[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Analysis/Calculus/VectorField.lean]: Right, good catch! Mathlib has no ideal solution for that case yet. I believe just omitting the deprecation is one common solution. (There are ways to do better, but they require infrastructure changes first. I think they should not block your PR.)

In short: for now, just removing the deprecated alias again is fine.

**Comment by grunweg** [comment]
Hi @jkanschik. I just came across this PR again: it would be a shame to see it wither. Do you think you'll have some time to address the remaining comments, or would you like some help with that?

**Comment by grunweg** [comment]
Hi again! As I [said on zulip](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Product.20rule.20for.20Lie.20Bracket.20of.20vector.20fields/near/526950678), @PatrickMassot and my work on the Levi-Civita connection will have use for this PR very soon. Do you mind if I push it to completion?

**Comment by grunweg** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26725

**Comment by grunweg** [comment]
@jkanschik Since the remaining steps are more tedious than anything else (and don't require any creative input) and this PR is important to my work, I've taken the liberty to fix the build and migrate this to the new fork-based workflow. I hope you don't mind (and if you do, I'll be very happy to discuss things you could work on next). Thank again for your work!
